US06121271
4-Bromo-2,6-diethylanisole
A stirred solution containing 4-bromo-2,6-diethylbenzenediazonium tetrafluoroborate (17.25 g, 52.77 mmol) and freshly ground anhydrous zinc chloride (7.2 g, 52.9 mmol) in methanol (1.06 L) was refluxed for 6 h. The reaction was cooled to ambient temperature, quenched with H2O (1.2 L), saturated with solid sodium chloride and extracted with hexane. The combined organic extracts were washed with sat. aq. NaHCO3 (1×100 mL), with H2O (1×100 mL), with brine (1×100 mL), dried (Na2SO4) and concentrated to give 12.0 g (94%) of title compound. 1H NMR: consistent. mass spectrum (EI) m/z 242 (M+).

reactant | 4-bromo-2,6-diethylbenzenediazonium tetrafluoroborate | 52.77 mmol, 17.25 g | F[B-](F)(F)F.BrC1=CC(=C(C(=C1)CC)[N+]#N)CC
reactant | methanol | 1.06 L | CO | CH4O
catalyst | zinc chloride | 52.9 mmol, 7.2 g | [Cl-].[Zn+2].[Cl-]
product | 4-Bromo-2,6-diethylanisole | 12.0 g, 94% | BrC1=CC(=C(C(=C1)CC)OC)CC | C11H15BrO
